US09034866B2
Synthesis of 9-((R)-3-hydroxy-3-(pyridin-2-yl)but-1-yn-1-yl)-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxamide
Similar to as described in General Procedure G, ethyl 9-bromo-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate was reacted with (R)-2-(pyridin-2-yl)but-3-yn-2-ol to give a diasteromeric mixture of ethyl 94(R)-3-hydroxy-3-(pyridin-2-yl)but-1-yn-1-yl)-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate. Following aminolysis of the ethyl ester (similar to as described in General Procedure M) a diasteromeric mixture of the titled compounds was obtained and separated by Prep HPLC.

reactant | ethyl 9-bromo-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | BrC1=CC2=C(OCC(C3=C2N=C(S3)C(=O)OCC)C)C=C1 | C15H14BrNO3S
reactant | (R)-2-(pyridin-2-yl)but-3-yn-2-ol | N1=C(C=CC=C1)[C@@](C)(C#C)O | C9H9NO
reactant | 4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | CC1COC2=C(C=3N=C(SC31)C(=O)[O-])C=CC=C2
product | 9-((R)-3-hydroxy-3-(pyridin-2-yl)but-1-yn-1-yl)-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxamide | O[C@@](C#CC1=CC2=C(OCC(C3=C2N=C(S3)C(=O)N)C)C=C1)(C)C1=NC=CC=C1 | C22H19N3O3S
